US06002008
1,4-Dihydro-4oxo-3-quinolinecarbonitrile
A stirred mixture of 1.03 g of methyl 2-(dimethylaminomethyleneamino)benzoate, 0.54 g of sodium methoxide, 1.04 ml of acetonitrile, and 10 ml of toluene was refluxed for 18 h. The mixture was cooled, treated with water, and brought to pH 3 by addition of dilute HCl. The resulting solid was extracted with ethyl acetate. The extract was washed with water, dried and evaporated. The residue was recrystallized from ethanol to give a solid, mp 290-300° C.

reactant | methyl 2-(dimethylaminomethyleneamino)benzoate | 1.03 g | CN(C)C=NC1=C(C(=O)OC)C=CC=C1 | C11H14N2O2
reactant | sodium methoxide | 0.54 g | C[O-].[Na+]
reactant | acetonitrile | 1.04 ml | C(C)#N | C2H3N
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-Dihydro-4oxo-3-quinolinecarbonitrile | O=C1C(=CNC2=CC=CC=C12)C#N | C10H6N2O
